US06878728B1
(3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]methyl}-4-(4-[2-(tert-butoxycarbonylamino)ethoxy]benzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate
According to example 135 (with the exception that N-(tert-butoxycarbonyl)ethanolamine was used instead of phenethyl alcohol), (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]methyl}-4-(4-hydroxybenzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate was converted to the desired compound. MS(ESI): 798(M+Na).

reactant | N-(tert-butoxycarbonyl)ethanolamine | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]methyl}-4-(4-hydroxybenzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(CC(C)C)C[C@@H]2[C@@H](N(C(O2)(C)C)C(=O)O[C@H]2CO[C@H]1OCC[C@H]12)CC1=CC=C(C=C1)O | C31H40N2O10S
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]methyl}-4-(4-[2-(tert-butoxycarbonylamino)ethoxy]benzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(CC(C)C)C[C@@H]2[C@@H](N(C(O2)(C)C)C(=O)O[C@H]2CO[C@H]1OCC[C@H]12)CC1=CC=C(C=C1)OCCNC(=O)OC(C)(C)C | C38H53N3O12S
